2190-01-03 17:00:00 Physician Attending Progress Note
Chief Complaint: upper GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M vomited blood this AM and melena - no other symptoms. Brought to
   OSH, given PRBC's and transferred. Here, was given IVF, octreotide, IV
   PPI.
   24 Hour Events:
                                  History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HTN
   EtOH abuse
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Gastrointestinal: Emesis
   Flowsheet Data as of  [**2190-1-3**] 05:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 110 (106 - 112) bpm
   BP: 133/74(87) {133/74(87) - 163/115(120)} mmHg
   RR: 21 (19 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
             43 mL
   PO:
             TF:
   IVF:
   43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    220 mL
   Urine:
   220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Head, Ears, Nose, Throat: NG tube, still with blood in
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238
   0.7
   33
   37.9 %
        [image002.jpg]
                            [**2190-1-3**]  02:10 PM
   Hct
   37.9
   Other labs: PT / PTT / INR://1.2
   Imaging: CXR obscured left heart border
   ECG: ST, no ischemia
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, upper GI BLEED) - cont
   octreotide, PPI, access adequate, follow Hct - EGD tonight
 ALCOHOL ABUSE - CIWA
   HTN -  hold antihypertensives
   abnormal CXR - repeat in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-1-3**] 01:30 PM
   18 Gauge - [**2190-1-3**] 01:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-01-04 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2190-1-3**] 09:30 PM
 INVASIVE VENTILATION - START [**2190-1-3**] 10:30 PM
   [**1-3**]
   - Went to EGD but didn't tolerate MAC well so intubated and started on
   Propofol
   - GI did endoscopy saw ulcer and injected it and cauterized it
   - H pylori ordered, octreotide gtt stopped, keep NPO until Tuesday
   - Hct stable through PM at 35
   [**1-4**]
   - 2a ABG: 7.37/47/117/28
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-4**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 74 (46 - 116) bpm
   BP: 101/59(69) {56/11(23) - 183/115(120)} mmHg
   RR: 19 (10 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.5 kg (admission): 121 kg
   Height: 71 Inch
             Total In:
                                                                  2,182 mL
                                                                    320 mL
   PO:
             TF:
   IVF:
                                                                  2,182 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    570 mL
   Urine:
                                                                    760 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,422 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 526 (526 - 526) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.37/47/117/26/1
   Ve: 9.7 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Sedated, raised eyebrows to voice but didn't open
   eyes
   Cardiovascular: Difficult to auscultate heart sounds, but able to
   palpate R radial pulse well
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Diffuse upper airway expiratory sounds, good air
   movement otherwise
   Abdominal: Obese, no grimacing to palpation of abdomen though. BS+
   Extremities: No BLE edema. Pneumoboots on
   Skin:  Not assessed, Not jaundiced
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   11.7 g/dL
   133 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   26 mg/dL
   110 mEq/L
   144 mEq/L
   33.4 %
   15.9 K/uL
        [image002.jpg]
                            [**2190-1-3**]  02:10 PM
                            [**2190-1-3**]  06:16 PM
                            [**2190-1-3**]  11:22 PM
                            [**2190-1-4**]  02:27 AM
                            [**2190-1-4**]  04:16 AM
   WBC
   15.9
   Hct
   37.9
   35.3
   35.4
   33.4  STABLE
   Plt
   187 STABLE
   Cr
   0.7
   TCO2
   28
   Glucose
   133
   Other labs: PT / PTT / INR:13.4/23.9/1.1   THIS AM , Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: UA negative
   Imaging: [**1-3**] CXR
   IMPRESSION: Left basilar opacification may be atelectasis although
   pneumonia
   cannot be completely excluded. Consider repeat PA and lateral with
   encouraged
   inspiration.
   Microbiology: H pylori pending
   Initial sputum Cx from this morning with GN diplococci and GPC
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ALCOHOL ABUSE
   Assessment and Plan: 67 hypertension and heavy alcohol use who presents
   from home with hematemasis and melena, s/p EGD with cauterization and
   epi injections into ulcer in the stomach.
   Upper gastrointestinal bleeding:  No signs of hemodynamic instability.
   EGD by GI as above. Hct's steady. Octreotide gtt has been stopped per
   GI recs.
   - F/u with GI
   - IV PPI drip
   - two large bore IVs in place 16 and 18
   - active type and screen, outdates [**1-6**]
   - [**Hospital1 **] Hct
   - 4 units crossmatched currently
   Mechanical Ventilation: Intubated peri-procedure due to inability to
   tolerate the EGD. Does not appear that pt had respiratory distress or
   any other respiratory acute issues that would indicate a prolonged vent
   course would be necessary. Currently on minimal vent settings, CPAP
   [**6-16**], 50%, with RSBI 29 this morning.
   - SBT this morning
   - Wean sedation with Propofol
   - Consider extubation today
   Low grade fever: 100.3 at 4pm yesterday. No Cx's were drawn. Has
   suspicious L infiltrate on CXR. Initial Gstain of sputum specimen from
   this morning showing 1+ GN diplococci and 1+ GPC
s in pairs. Very
   suspicious for PNA and we will treat for CAP.
   - Will start Levaquin for 5 day course, IV for now but after pt
   extubated and taking PO
s will transition if possible
   - Repeat CXR this am
   - BCx x2 now
   - Watch fever curve
   Hypertension:
   - holding home lisinopril
   History of alcohol abuse: No history of withdrawal.  Last drink per
   report one week ago.
   - valium per CIWA scale
   - thiamine, folate, multivitamin
   FEN: IVF boluses for UOP or hypoTN, replete electrolytes, NPO until
   Tuesday per GI recs
   Prophylaxis: Pneumoboots, no subQ heparin
   Access: peripherals 16 and 18.
   Code:  Full (discussed with patient)
   Communication: Patient, daughters [**Name (NI) 4830**] [**Telephone/Fax (1) 10079**], [**Telephone/Fax (1) 10080**],
   [**Doctor First Name 432**] [**Telephone/Fax (1) 10081**]
   Disposition: Keep in MICU for a day after extubation, also concern for
   fevers and PNA with starting new ABx

2190-01-04 10:42:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with ETOH abuse, presented with hematemesis:  On EGD found to
   have gastric ulcer that
   with 2 vessels that were injected and cauterized.  Was intubated for
   procedure.
   24 Hour Events:
 ENDOSCOPY - At [**2190-1-3**] 09:30 PM
 INVASIVE VENTILATION - START [**2190-1-3**] 10:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-4**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.6
   HR: 76 (46 - 116) bpm
   BP: 102/51(63) {56/11(23) - 183/115(120)} mmHg
   RR: 19 (10 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.5 kg (admission): 121 kg
   Height: 71 Inch
             Total In:
                                                                  2,182 mL
                                                                    436 mL
   PO:
             TF:
   IVF:
                                                                  2,182 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    670 mL
   Urine:
                                                                    760 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,422 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 509 (509 - 526) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.37/47/117/26/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   187 K/uL
   133 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   26 mg/dL
   110 mEq/L
   144 mEq/L
   33.4 %
   15.9 K/uL
        [image002.jpg]
                            [**2190-1-3**]  02:10 PM
                            [**2190-1-3**]  06:16 PM
                            [**2190-1-3**]  11:22 PM
                            [**2190-1-4**]  02:27 AM
                            [**2190-1-4**]  04:16 AM
   WBC
   15.9
   Hct
   37.9
   35.3
   35.4
   33.4
   Plt
   187
   Cr
   0.7
   TCO2
   28
   Glucose
   133
   Other labs: PT / PTT / INR:13.4/23.9/1.1, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)\
   Breathing comfortably, intubated for difficulty tolerating procedure.
   Will treat for PNA with levoflox given increased secretions, CXR
   infilatrates, elevated WBC, low grade temp.
   Will extubated today.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   No further bleeding.  Required total of 1 unit.
 ALCOHOL ABUSE
   monitor for signs of withdrawl.  On valium CIWA scale.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-1-3**] 01:30 PM
   18 Gauge - [**2190-1-4**] 08:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-01-05 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2190-1-4**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2190-1-4**] 11:15 AM
 BLOOD CULTURED - At [**2190-1-4**] 12:00 PM
 BLOOD CULTURED - At [**2190-1-4**] 03:00 PM
   - 2a ABG: 7.37/47/117/28
   - extubated, doing well.
   - Increased secretions and left sided effusion - started on
   levofloxacin 750mg daily for 5 day course.
   - started folate, thiamine B12.
   - PM Hct stable.
   - Endoscopy report says pt should be NPO, but until when?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2190-1-4**] 12:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-5**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 78 (73 - 97) bpm
   BP: 140/67(85) {102/51(63) - 148/77(92)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.5 kg (admission): 121 kg
   Height: 71 Inch
             Total In:
                                                                  1,226 mL
                                                                    153 mL
   PO:
             TF:
   IVF:
                                                                  1,226 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    500 mL
   Urine:
                                                                  1,550 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                     -324  --> .75 positive through LOS mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 509 (509 - 509) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 11.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   10.0 g/dL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.9 mEq/L
   12 mg/dL
   112 mEq/L
   145 mEq/L
   32.4 %
   10.2 K/uL
        [image002.jpg]
                            [**2190-1-3**]  02:10 PM
                            [**2190-1-3**]  06:16 PM
                            [**2190-1-3**]  11:22 PM
                            [**2190-1-4**]  02:27 AM
                            [**2190-1-4**]  04:16 AM
                            [**2190-1-4**]  02:47 PM
                            [**2190-1-5**]  05:09 AM
   WBC
   15.9
   10.2
   Hct
   37.9
   35.3
   35.4
   33.4
   33.1
   32.4
   Plt
   187
   192
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   133
   108
   Other labs: PT / PTT / INR:13.4/23.9/1.1    PENDING THIS AM, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR this am
   [**1-4**] CXR
   PORTABLE SEMI-UPRIGHT CHEST RADIOGRAPH: ET tube is approximately 5.6 cm
   from
   the carina. An orogastric tube is seen with tip projecting below the
   diaphragm and out of the field of view. Left basilar opacification is
   difficult to compare given motion on the present study but it appears
   progressed. There is a small left effusion. The right lung appears
   clear.
   Cardiomediastinal silhouette is stable with prominence of the pulmonary
   arteries again seen. No pneumothorax.
   Microbiology: [**1-4**] 1+ GN diplococci, 1+ GPC pairs
   Hpylori pending
   BCx pending x2
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ALCOHOL ABUSE
   Assessment and Plan: 67 hypertension and heavy alcohol use who presents
   from home with hematemasis and melena, s/p EGD with cauterization and
   epi injections into ulcer in the stomach.
   Upper gastrointestinal bleeding:  No signs of hemodynamic instability.
   EGD by GI as above. Hct's steady. Octreotide gtt has been stopped per
   GI recs.
   - F/u with GI
   - IV PPI drip
   - two large bore IVs in place 16 and 18
   - active type and screen, outdates [**1-6**]
   - [**Hospital1 **] Hct
   - 4 units crossmatched currently
   Mechanical Ventilation: Intubated peri-procedure due to inability to
   tolerate the EGD. Does not appear that pt had respiratory distress or
   any other respiratory acute issues that would indicate a prolonged vent
   course would be necessary. Currently on minimal vent settings, CPAP
   [**6-16**], 50%, with RSBI 29 this morning.
   - SBT this morning
   - Wean sedation with Propofol
   - Consider extubation today
   Low grade fever: 100.3 at 4pm yesterday. No Cx's were drawn. Has
   suspicious L infiltrate on CXR. Initial Gstain of sputum specimen from
   this morning showing 1+ GN diplococci and 1+ GPC
s in pairs. Very
   suspicious for PNA and we will treat for CAP.
   - Will start Levaquin for 5 day course, IV for now but after pt
   extubated and taking PO
s will transition if possible
   - Repeat CXR this am
   - BCx x2 now
   - Watch fever curve
   Hypertension:
   - holding home lisinopril
   History of alcohol abuse: No history of withdrawal.  Last drink per
   report one week ago.
   - valium per CIWA scale
   - thiamine, folate, multivitamin
   FEN: IVF boluses for UOP or hypoTN, replete electrolytes, NPO until
   Tuesday per GI recs
   Prophylaxis: Pneumoboots, no subQ heparin
   Access: peripherals 20 and 18
   Code:  Full (discussed with patient)
   Communication: Patient, daughters [**Name (NI) 4830**] [**Telephone/Fax (1) 10079**], [**Telephone/Fax (1) 10080**],
   [**Doctor First Name 432**] [**Telephone/Fax (1) 10081**]
   Disposition: Keep in MICU for a day after extubation, also concern for
   fevers and PNA with starting new ABx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-1-4**] 08:34 AM
   20 Gauge - [**2190-1-4**] 02:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-01-05 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with UGIB, also found to have PNA.  has improved.  Extubated
   yesterday.  Doing well.
   24 Hour Events:
 SPUTUM CULTURE - At [**2190-1-4**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2190-1-4**] 11:15 AM
 BLOOD CULTURED - At [**2190-1-4**] 12:00 PM
 BLOOD CULTURED - At [**2190-1-4**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2190-1-4**] 12:30 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   protonix
   levoflox
   thiamine
   folate
   MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Nausea, No(t) Emesis, No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2190-1-5**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 80 (73 - 97) bpm
   BP: 137/58(76) {121/56(74) - 148/77(92)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.6 kg (admission): 121 kg
   Height: 71 Inch
             Total In:
                                                                  1,226 mL
                                                                    558 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,226 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    620 mL
   Urine:
                                                                  1,550 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -324 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   192 K/uL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.9 mEq/L
   12 mg/dL
   112 mEq/L
   145 mEq/L
   32.4 %
   10.2 K/uL
        [image002.jpg]
                            [**2190-1-3**]  02:10 PM
                            [**2190-1-3**]  06:16 PM
                            [**2190-1-3**]  11:22 PM
                            [**2190-1-4**]  02:27 AM
                            [**2190-1-4**]  04:16 AM
                            [**2190-1-4**]  02:47 PM
                            [**2190-1-5**]  05:09 AM
   WBC
   15.9
   10.2
   Hct
   37.9
   35.3
   35.4
   33.4
   33.1
   32.4
   Plt
   187
   192
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   133
   108
   Other labs: PT / PTT / INR:14.0/23.5/1.2, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ALCOHOL ABUSE
   Continue PPI, advance diet.  Continue PNA treatment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-1-4**] 08:34 AM
   20 Gauge - [**2190-1-4**] 02:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes